US08476297B2
N-(Pyridin-3-yl)-1-(4-(trifluoromethyl)phenyl)-3,4-dihydroisoquinoline-2(1H)-carboxamide
A solution of 1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline (97 mg, 0.350 mmol, example 9 (step 3), DIEA (61 μL, 0.35 mmol), and 3-iso-cyanatopyridine (42 mg, 0.35 mmol) in DCM (1 mL) was stirred at RT for 16 h. A white precipitate was observed. The reaction mixture was then filtered and the solid was dried in vacuo to give the title compound as a white solid. MS (ESI, positive ion) m/z: 398 (M+H).

reactant | 1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline | FC(C1=CC=C(C=C1)C1NCCC2=CC=CC=C12)(F)F | C16H14F3N
reactant | DIEA | 0.35 mmol, 61 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-iso-cyanatopyridine | 0.35 mmol, 42 mg | N(=C=O)C=1C=NC=CC1 | C6H4N2O
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | N-(Pyridin-3-yl)-1-(4-(trifluoromethyl)phenyl)-3,4-dihydroisoquinoline-2(1H)-carboxamide | N1=CC(=CC=C1)NC(=O)N1C(C2=CC=CC=C2CC1)C1=CC=C(C=C1)C(F)(F)F | C22H18F3N3O
